US04501687
A solution of 2 ml of acetyl chloride in 5 ml of benzene was added at 0° C. to a solution of 1 g of 3-(2-butenyl)-cyclopentanol in 20 ml of benzene and 2 ml of pyridine and the mixture was stirred at 20° C. for 17 hours and was poured into 2N hydrochloric acid solution with stirring. The decanted aqueous phase was extracted with benzene and the organic phase was washed with water, dried and evaporated to dryness. The residue was chromatographed over silica gel and was eluted with a 9-1 cyclohexane-ethyl acetate mixture to obtain 1.4 g of 1-acetyloxy-3-(2-butenyl)-cyclopentane.

reactant | acetyl chloride | 2 ml | C(C)(=O)Cl | C2H3ClO
reactant | 3-(2-butenyl)-cyclopentanol | 1 g | C(C=CC)C1CC(CC1)O | C9H16O
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 1-acetyloxy-3-(2-butenyl)-cyclopentane | 1.4 g | C(C)(=O)OC1CC(CC1)CC=CC | C11H18O2
